US07514567B2
(b) (R)-3′-[5-(4-Pyridyl)-1,3,4-thiadiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The compound was prepared by a method analogous to that described in Preparation 3 from (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 2-bromo-5-(4-pyridyl)-1,3,4-thiadiazole using 5 equivalents of copper (I) iodide. The title compound was obtained as a beige solid, m/z 344 (MH+).

reactant | (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 2-bromo-5-(4-pyridyl)-1,3,4-thiadiazole | 5 equivalents | BrC=1SC(=NN1)C1=CC=NC=C1 | C7H4BrN3S
catalyst | copper (I) iodide | [Cu]I
product | (R)-3′-[5-(4-Pyridyl)-1,3,4-thiadiazol-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | N1=CC=C(C=C1)C1=NN=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C16H17N5O2S
